US06608069B1
A mixture of (E)-3-(1,3-bis(cyclohexylmethyl)-1,2,3,6-tetrahydro-2,6-dioxo-9H-purin-8-yl)cinnamic acid, from Example 31, (0.20 g, 0.41 mmol) in dichloromethane (5 ml) and thionyl chloride (Aldrich, 0.6 ml, 0.81 mmol) was refluxed for 1.5 hours. Volatiles were removed in vacuo to give (E)-3-(1,3-bis(cyclohexylmethyl)-1,2,3,6-tetrahydro-2,6-dioxo-9H-purin-8-yl)cinnamic acid chloride as a yellow solid which was used without further purification.

reactant | (E)-3-(1,3-bis(cyclohexylmethyl)-1,2,3,6-tetrahydro-2,6-dioxo-9H-purin-8-yl)cinnamic acid | C1(CCCCC1)CN1C(N(C=2NC(=NC2C1=O)C=1C=C(/C=C/C(=O)O)C=CC1)CC1CCCCC1)=O | C28H34N4O4
reactant | thionyl chloride | 0.81 mmol, 0.6 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (E)-3-(1,3-bis(cyclohexylmethyl)-1,2,3,6-tetrahydro-2,6-dioxo-9H-purin-8-yl)cinnamic acid chloride | C1(CCCCC1)CN1C(N(C=2NC(=NC2C1=O)C=1C=C(/C=C/C(=O)Cl)C=CC1)CC1CCCCC1)=O | C28H33ClN4O3
